US09102591B2
2,3-Dimethyl-N-(1-methyl-4-phenyl-piperidin-4-ylmethyl)-benzamide
From 2,3-dimethylbenzoic acid and C-(1-methyl-4-phenyl-piperidin-4-yl)-methylamine. LCMS (MH30 ) m/z=337.0, tR (minutes, Method A)=0.65

reactant | 2,3-dimethylbenzoic acid | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | C-(1-methyl-4-phenyl-piperidin-4-yl)-methylamine | CN1CCC(CC1)(C1=CC=CC=C1)CN | C13H20N2
product | 2,3-Dimethyl-N-(1-methyl-4-phenyl-piperidin-4-ylmethyl)-benzamide | CC1=C(C(=O)NCC2(CCN(CC2)C)C2=CC=CC=C2)C=CC=C1C | C22H28N2O
